### PR TITLE
[Merged by Bors] - feat: add lemma `List.prod_map_ite_eq`

### PR DESCRIPTION
**Pull request by BoltonBailey**
Proves that the (product) sum of a list mapped through a function of the form `if x = a then ... else ...` is equal to the (product) sum over the list mapped through the else condition, (times) plus an additional factor about the number of times `a` appears.

Upstreamed from [another project](https://github.com/BoltonBailey/formal-snarks-project).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by urkud** [comment]
Is it from an open source project? If yes, then please link. Also, what do you think about adding these generic lemmas?
```
namespace List

variable {α M : Type*} [CommMonoid M]

@[to_additive]
lemma prod_map_ite (p : α → Prop) [DecidablePred p] (f g : α → β) (l : List α) :
    (l.map fun a ↦ if p a then f a else g a).prod =
      ((l.filter fun a ↦ p a).map f) * ((l.filter fun a ↦ ¬p a).map g) := _

@[to_additive]
lemma prod_map_filter_mul_prod_map_filter_not (p : α → Prop) [DecidablePred p] (f : α → M) (l : List α) :
    -- See `Finset.prod_filter_mul_prod_filter_not`
```

**Comment by BoltonBailey** [comment]
Seems good, I have added these.

File: Mathlib/Algebra/BigOperators/Group/List.lean [hunk 1]
```diff
@@ -542,6 +565,24 @@ theorem prod_set' (L : List G) (n : ℕ) (a : G) :
 #align list.prod_update_nth' List.prod_set'
 #align list.sum_update_nth' List.sum_set'
 
+@[to_additive]
+lemma prod_map_ite_eq {A : Type} [DecidableEq A] (l : List A) (f g : A → G) (a : A) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Group/List.lean:569]: Did you mean
```suggestion
lemma prod_map_ite_eq {A : Type*} [DecidableEq A] (l : List A) (f g : A → G) (a : A) :
```

File: Mathlib/Algebra/BigOperators/Group/List.lean [hunk 2]
```diff
@@ -542,6 +565,24 @@ theorem prod_set' (L : List G) (n : ℕ) (a : G) :
...
+    (f a / g a) ^ (l.count a) * (l.map g).prod := by
+  induction l with
+  | nil => simp
+  | cons x xs ih =>
+    simp only [map_cons, prod_cons, nodup_cons, ne_eq, mem_cons, count_cons] at ih ⊢
+    rw [ih]
+    clear ih
+    by_cases hx : x = a
+    · simp only [hx, ↓reduceIte, div_pow, pow_add, pow_one]
+      -- TODO replace with `abel`
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/BigOperators/Group/List.lean:581]: Please clarify. Why haven't you? If it doesn't work, is there a reason to assume it will work in the future?

Comment (BoltonBailey) [reply Mathlib/Algebra/BigOperators/Group/List.lean:581]: Actually, seems `abel` itself is not supposed to be imported in this file at all, so I'll just remove the comment.

Comment (BoltonBailey) [reply Mathlib/Algebra/BigOperators/Group/List.lean]: (and use the golf technique from [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Dependencies.20of.20abel))

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Algebra/BigOperators/Group/List.lean [hunk 3]
```diff
@@ -542,6 +565,20 @@ theorem prod_set' (L : List G) (n : ℕ) (a : G) :
 #align list.prod_update_nth' List.prod_set'
 #align list.sum_update_nth' List.sum_set'
 
+@[to_additive]
+lemma prod_map_ite_eq {A : Type*} [DecidableEq A] (l : List A) (f g : A → G) (a : A) :
+    (l.map fun x => ite (x = a) (f x) (g x)).prod = (f a / g a) ^ (l.count a) * (l.map g).prod := by
```
Comment (jcommelin) [inline Mathlib/Algebra/BigOperators/Group/List.lean:570]:
```suggestion
    (l.map fun x => if x = a then f x else g x).prod = (f a / g a) ^ (l.count a) * (l.map g).prod := by
```

**Comment by fpvandoorn** [comment]
bors merge
